US08912200B2
Step 4: 1-{3-methoxy-4-[(trimethylsilyl)ethynyl]phenyl-4-methylpiperazine
A solution of [(4-bromo-2-methoxyphenyl)ethynyl](trimethyl)silane (1.426 g, 5.035 mmol) in dry THF (25 mL) was degassed and backfilled with argon for three times. Pd2(dba)3 (230.5 mg, 0.252 mmol) and 2-dicyclohexylphosphino-2-(N,N′-dimethylamino)biphenyl (79.3 mg, 0.201 mmol) were added under argon atmosphere and the mixture was degassed and backfilled with argon for three times. Then 1 M LiHMDS in THF (12.1 mL, 12.084 mmol) and N-methylpiperazine (1.34 mL, 1.21 g, 12.083 mmol) were added by a syringe and the mixture was degassed and backfilled with Argon for three times. The reaction mixture was heated to reflux for 1 h. After cooling to room temperature the reaction mixture was filtered on a pad of celite washing with THF (200 mL). The filtrate was evaporated under vacuum and the black oil so obtained was purified by chromatography on silica gel (DCM/MeOH 9/1) to afford the title compound as a brownish solid (1.042 g, 68.4%).

reactant | [(4-bromo-2-methoxyphenyl)ethynyl](trimethyl)silane | 5.035 mmol, 1.426 g | BrC1=CC(=C(C=C1)C#C[Si](C)(C)C)OC | C12H15BrOSi
reactant | LiHMDS | 1 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | N-methylpiperazine | 12.083 mmol, 1.34 mL, 1.21 g | CN1CCNCC1 | C5H12N2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.252 mmol, 230.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-dicyclohexylphosphino-2-(N,N′-dimethylamino)biphenyl | 0.201 mmol, 79.3 mg | C1(CCCCC1)P(C1(C(=CC=CC1)C1=CC=CC=C1)N(C)C)C1CCCCC1 | C26H38NP
solvent | THF | 12.084 mmol, 12.1 mL | C1CCOC1 | C4H8O
product | 3-methoxy-4-[(trimethylsilyl)ethynyl]phenyl-4-methylpiperazine | 1.042 g, 68.4% | COC=1C=C(C=CC1C#C[Si](C)(C)C)N1CCN(CC1)C | C17H26N2OSi
